US05123951
A solution of 1.5 grams (0.05 mole) of ethyl 3-[(4-chlorophenyl)amino]-2-(dimethyloxosulfuranylidene)-3-oxopropanoate prepared in Example XLXII (Compound 205) in 25 milliliters of chloroform was stirred at room temperature for two hours while passing in a flow of anhydrous hydrogen chloride. After ceasing the gas feed the solution was stirred at ambient temperature for about 64 hours after which the solvent was removed under reduced pressure. Flash chromatography of the residue eluting with hexane-ethyl acetate (7:3), gave a white solid which was recrystallized from ethyl acetate-hexane to give 0.20 gram (0.001 mole) of ethyl 3-[(4-chlorophenyl)amino]-2-chloro-3-oxopropanoate having a melting point of 104° C.-105° C.

reactant | ethyl 3-[(4-chlorophenyl)amino]-2-(dimethyloxosulfuranylidene)-3-oxopropanoate | 0.05 mole, 1.5 grams | ClC1=CC=C(C=C1)NC(C(C(=O)OCC)=S(=O)(C)C)=O | C13H16ClNO4S
reactant | hydrogen chloride | Cl | ClH
solvent | chloroform | 25 milliliters | C(Cl)(Cl)Cl | CHCl3
product | ethyl 3-[(4-chlorophenyl)amino]-2-chloro-3-oxopropanoate | 0.001 mole, 0.20 gram | ClC1=CC=C(C=C1)NC(C(C(=O)OCC)Cl)=O | C11H11Cl2NO3
